US09328099B2
{5-Bromo-2-[(trifluoromethyl)sulfanyl]phenyl}methanol
NaH (120 mg, 3.01 mmol, 60% dispersion in oil) and 5-(trifluoromethyl)dibenzo[b,d]thiophenium trifluoromethanesulfonate (808 mg, 2.01 mmol) were added sequentially to a solution of (5-bromo-2-sulfanylphenyl)methanol (440 mg, 2.01 mmol) in DMF (10 mL) at 23° C. The reaction mixture was stirred at 23° C. for 45 minutes, and was then partitioned between EtOAc and water. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-20%, EtOAc/hexanes) to afford the title compound.

reactant | NaH | 3.01 mmol, 120 mg | [H-].[Na+]
reactant | 5-(trifluoromethyl)dibenzo[b,d]thiophenium trifluoromethanesulfonate | 2.01 mmol, 808 mg | FC(S(=O)(=O)[O-])(F)F.FC([S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)(F)F
reactant | (5-bromo-2-sulfanylphenyl)methanol | 2.01 mmol, 440 mg | BrC=1C=CC(=C(C1)CO)S | C7H7BrOS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | {5-Bromo-2-[(trifluoromethyl)sulfanyl]phenyl}methanol | BrC=1C=CC(=C(C1)CO)SC(F)(F)F | C8H6BrF3OS
